US05556964
The reaction is carried out in a nitrogen atmosphere. 15,4 g p-toluenesulphonic acid is dissolved into 200 ml acetonitrile. To the solution 50,0 g 16α-hydroxyprednisolone and 17.6 ml butanal are added. The temperature rises to 25° C. After 30 min most of the material is dissolved. Shortly thereafter the product starts to crystallize. After 3 hours the reaction is stopped by the addition of 75 ml aqueous saturated sodium hydrogen carbonate solution, whereupon the product crystallizes. The dried product is dissolved in methylene chloride and methanol and is crystallized by the addition of ligroine (b.p. 40-65) giving crude budesonide.

reactant | p-toluenesulphonic acid | 15,4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 16α-hydroxyprednisolone | C[C@]12C[C@@H]([C@H]3[C@H]([C@@H]1C[C@H]([C@@]2(C(=O)CO)O)O)CCC4=CC(=O)C=C[C@]34C)O | C21H28O6
reactant | butanal | 17.6 ml | C(CCC)=O | C4H8O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | budesonide | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C25H34O6
